US07696216B2
F. Synthesis of 4-(4-Isopropyl-phenyl)-1-[3-(2-methanesulphinyl-ethoxy)-benzyl]-6-prop-2-ynyloxy-1H-quinazoline-2-one
The title compound (yellow oil) is prepared from (4-isopropyl-phenyl)-{2-[3-(2-methanesulphinyl-ethoxy)-benzylamino]-5-prop-2-ynyloxy-phenyl}-methanone and sodium cyanate as described for the preparation of example 3.

reactant | (4-isopropyl-phenyl)-{2-[3-(2-methanesulphinyl-ethoxy)-benzylamino]-5-prop-2-ynyloxy-phenyl}-methanone | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OCC#C)NCC1=CC(=CC=C1)OCCS(=O)C | C29H31NO4S
reactant | sodium cyanate | [O-]C#N.[Na+]
product | 4-(4-Isopropyl-phenyl)-1-[3-(2-methanesulphinyl-ethoxy)-benzyl]-6-prop-2-ynyloxy-1H-quinazoline-2-one | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC(=CC=C1)OCCS(=O)C)=O | C30H30N2O4S
